US05185370
3-[(4-Methylsulfonylphenyl)methylene]-2,4-pentanedione
The procedure described in Example 1 was repeated by using 1.1 g of 4-methylsulfonylbenzaldehyde and 1.5 g of 2,4-pentanedione. The product was crystallized from ether, mp 139°-140° C.

reactant | 4-methylsulfonylbenzaldehyde | 1.1 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | 2,4-pentanedione | 1.5 g | CC(CC(C)=O)=O | C5H8O2
product | 3-[(4-Methylsulfonylphenyl)methylene]-2,4-pentanedione | CS(=O)(=O)C1=CC=C(C=C1)C=C(C(C)=O)C(C)=O | C13H14O4S
